US09120749B2
1-{6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)-2-methylpropan-1-one (250 mg, 0.800 mmol) was reacted with 4-(pyrrolidin-1-ylmethyl)piperidine (168 mg, 1.00 mmol) to afford the desired product (243 mg, 68%) as a yellow solid: ESI MS m/z 444 [C23H30BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)-2-methylpropan-1-one | 0.800 mmol, 250 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)Cl | C13H11BrClNO
reactant | 4-(pyrrolidin-1-ylmethyl)piperidine | 1.00 mmol, 168 mg | N1(CCCC1)CC1CCNCC1 | C10H20N2
product | 1-{6-Bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one | 243 mg, 68% | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N1CCC(CC1)CN1CCCC1 | C23H30BrN3O
